US05393875
A solution of 2.0 g (6.23 mmol) of tert-butyl [(1S,2R,3S)-1-benzyl-3-cyclopropyl-2,3-dihydroxypropyl]carbamate in 20 ml of methanol was treated with 20 ml of 2N hydrochloric acid and the solution was heated to 500 for 90 minutes. After cooling, the solution was neutralized by the addition of 40 ml of 1N sodium hydroxide solution and evaporated to dryness on a rotary evaporator under reduced pressure. The residue was partitioned between water and methylene chloride. The organic phase was washed with water and saturated sodium chloride solution, dried over magnesium sulphate, filtered and evaporated under reduced pressure. There was obtained 0.7 g of (1S,2R,3S)-3-amino-1-cyclopropyl-4-phenyl-1,2-butanediol as white crystalline solid, MS: 150 (M-C4H8O)+.

reactant | tert-butyl [(1S,2R,3S)-1-benzyl-3-cyclopropyl-2,3-dihydroxypropyl]carbamate | 6.23 mmol, 2.0 g | C(C1=CC=CC=C1)[C@@H]([C@H]([C@@H](O)C1CC1)O)NC(OC(C)(C)C)=O | C18H27NO4
reactant | hydrochloric acid | 2N, 20 ml | Cl | ClH
reactant | sodium hydroxide | 1N, 40 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | (1S,2R,3S)-3-amino-1-cyclopropyl-4-phenyl-1,2-butanediol | 0.7 g | N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1=CC=CC=C1 | C13H19NO2
